US08039500B2
Methyl 2-(mesitylmethyl)-1-methyl-1H-benzimidazole-7-carboxylate
The title compound was prepared from mesityleneacetic acid and methyl 2-(methylamino)-3-nitrobenzoate in the similar method described in Reference Example 5.

reactant | mesityleneacetic acid | C1(=C(C(=CC(=C1)C)C)CC(=O)O)C | C11H14O2
reactant | methyl 2-(methylamino)-3-nitrobenzoate | CNC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H10N2O4
product | Methyl 2-(mesitylmethyl)-1-methyl-1H-benzimidazole-7-carboxylate | C1(=C(C(=CC(=C1)C)C)CC1=NC2=C(N1C)C(=CC=C2)C(=O)OC)C | C20H22N2O2
